US06469043B1
3-(Cyanobenzenesulfonyl Chloride
To a mixed solution of 200 ml of water and 250 ml of concentrated hydrochloric acid was added 25.0 g (212 mmol) of 3-cyanoaniline followed by stirring. An aqueous solution (80 ml) of 15.5 g (223 mmol) of sodium nitrite was added dropwise thereinto at −10° C. The reaction solution was added to acetic acid saturated with sulfur dioxide (prepared by saturating sulfur dioxide in 250 ml of acetic acid followed by adding 2.1 g of cuprous chloride) under ice-cooling and stirring. After 1 hour, the reaction solution was poured onto 500 ml of ice water and extracted with diethyl ether. The extract was washed with a saturated aqueous solution of sodium bicarbonate, water and brine successively, and dried over magnesium sulfate. The solvent was evaporated, a mixed solution of diethyl ether and hexane was added to the residue and the crystals were collected by filtration to give 16.0 g of the title compound.

reactant | hydrochloric acid | 250 ml | Cl | ClH
reactant | 3-cyanoaniline | 212 mmol, 25.0 g | C(#N)C=1C=C(N)C=CC1 | C7H6N2
reactant | sodium nitrite | 223 mmol, 15.5 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 250 ml, 2.1 g | S(=O)=O | O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | Cyanobenzenesulfonyl Chloride | 16.0 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
